US06586446B1
To a vigorously stirring suspension of (6S)-N-benzyl-2-azabicyclo[2.2.2]octan-6-ol (1.5 g, 6.9 mmol, Maybridge) and activated 4 Å MS (1.0 g) in acetonitrile (70 mL) at 23° C. was sequentially added 4-methylmorpholine-N-oxide (1.2 g, 10 mmol) and tetrapropylammonium perruthenate (240 mg, 0.69 mmol). After stirring the resulting black suspension for 30 min, the mixture was concentrated in vacuo, and the resulting residue was purified by flash chromatography (20-50% ethyl acetate in hexanes) to provide N-benzyl-2-azabicyclo[2.2.2]octan-6-one as an orange oil (1.2 g, 81%). MS (AP CI) 216 (M+H).

reactant | (6S)-N-benzyl-2-azabicyclo[2.2.2]octan-6-ol | 6.9 mmol, 1.5 g | C(C1=CC=CC=C1)N1C2[C@H](CC(C1)CC2)O | C14H19NO
reactant | 4-methylmorpholine-N-oxide | 10 mmol, 1.2 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
catalyst | tetrapropylammonium perruthenate | 0.69 mmol, 240 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | N-benzyl-2-azabicyclo[2.2.2]octan-6-one | 1.2 g, 81% | C(C1=CC=CC=C1)N1C2C(CC(C1)CC2)=O | C14H17NO
